US05310897
To a solution of (3S,4S)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-4-[(1R)-1-p-chlorophenylthiocarbonylethyl]-1-(t-butyloxycarbonylmethyl)azetidin-2-one (200 mg) in dry methylene chloride (1.5 ml), there was added BF3 --ET2O complex (263 mg), followed by stirring at room temperature for 1 hour. After evaporation of the solvent, the residue was dissolved in methanol (0.5 ml), diluted with brine and extracted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate and evaporated to give (3S,4S)-3-[(1R)-1-hydroxyethyl]-4-[(1R)-1-p-chlorophenylthiocarbonylethyl]-1-(carboxymethyl)azetidin-2-one as a crude product. The crude product, t-butyldimethylsilyl chloride (246 mg) and imidazole (151 mg) were dissolved in dry dimethylformamide (2.5 ml) and allowed to stand at room temperature overnight. The reaction mixture was poured into cold brine, adjusted with 1M potassium hydrogensulfate to pH and extracted with diethyl ether three times. The organic layer was washed with brine two times, dried over sodium sulfate and evaporated. The residue was purified by silica gel chromatography to give (3S,4S)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-4-[(1R)-1-p-chlorophenylthiocarbonylethyl]-1-(carboxymethyl)azetidin-2-one.

reactant | (3S,4S)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-4-[(1R)-1-p-chlorophenylthiocarbonylethyl]-1-(t-butyloxycarbonylmethyl)azetidin-2-one | 200 mg | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N([C@@H]1[C@@H](C)C(=S)C1=CC=C(C=C1)Cl)CC(=O)OC(C)(C)C)=O | C26H40ClNO4SSi
reactant | BF3 | B(F)(F)F | BF3
solvent | methylene chloride | 1.5 ml | C(Cl)Cl | CH2Cl2
product | (3S,4S)-3-[(1R)-1-hydroxyethyl]-4-[(1R)-1-p-chlorophenylthiocarbonylethyl]-1-(carboxymethyl)azetidin-2-one | O[C@H](C)[C@H]1C(N([C@@H]1[C@@H](C)C(=S)C1=CC=C(C=C1)Cl)CC(=O)O)=O | C16H18ClNO4S
